US07842694B2
5-[(3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid
A mixture of 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (0.226 g, 0.74 mmol), methyl 5-chloropyrazine-2-carboxylate (192 mg, 1.11 mmol) and potassium carbonate (205 mg, 1.48 mmol) in acetonitrile (5 mL) was stirred in a ‘Biotage initiator Microwave’ at 160° C. for 4 hours. The solvent was removed in vacuo and water (30 mL) added. The mixture was acidified and extracted into ethyl acetate (3×50 mL), the combined organics washed with brine (30 mL), dried (MgSO4), filtered and reduced in vacuo to give a brown oil which was a mixture of the acid and methyl ester. Lithium hydroxide monohydrate (78 mg, 1.85 mmol) in water (2 mL) was added to the mixture of acid and ester (326 mg, 0.74 mmol) in THF (4 mL) and the mixture stirred at RT for 20 hours. The THF was removed in vacuo and the aqueous residue washed with ethyl acetate (20 mL) to remove impurities then acidified with 1M citric acid. The product was extracted into ethyl acetate (2×100 mL) and the combined organics washed with brine (50 mL), dried (MgSO4), filtered and reduced in vacuo to give a yellow solid (0.17 g). m/z 428 (M+H)+

reactant | 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.74 mmol, 0.226 g | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](COC)C | C15H19N3O4
reactant | methyl 5-chloropyrazine-2-carboxylate | 1.11 mmol, 192 mg | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | potassium carbonate | 1.48 mmol, 205 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Lithium hydroxide monohydrate | 1.85 mmol, 78 mg | O.[OH-].[Li+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-[(3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid | 0.17 g | C[C@@H](COC)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)O | C20H21N5O6
